US07008950B1
3-(4-Isopropylphenyl)-2,2,4,6,7-pentamethyl-5-(3-pyridylmethyloxy)-2,3-dihydrobenzofuran
Using 3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran-5-ol and 3-chloromethylpyridine hydrochloride, the title compound was obtained in the same manner as in Example 1. This was oily.

reactant | 3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran-5-ol | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)O)C)(C)C | C22H28O2
reactant | 3-chloromethylpyridine hydrochloride | Cl.ClCC=1C=NC=CC1
product | 3-(4-Isopropylphenyl)-2,2,4,6,7-pentamethyl-5-(3-pyridylmethyloxy)-2,3-dihydrobenzofuran | Yield; 76% | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)OCC=2C=NC=CC2)C)(C)C | C28H33NO2
